*SPICE Netlist for circuit 17
I1 1 0 DC 1mA
V2 4 0 5V
V4 0 5 5V
M2 2 6 1 1 NMOS W=1u L=1u
M1 3 7 1 1 NMOS W=1u L=1u
V1 7 4 5V
V3 5 6 5V
.MODEL NMOS NMOS (LEVEL=1 VTO=1 KP=1.0e-4 LAMBDA=0.02)

.OP
.END

