*SPICE Netlist for circuit 55
M1 1 6 2 2 NMOS W=1u L=1u
R2 0 2 1k
R1 2 1 1k
U1 2 3 6
.MODEL NMOS NMOS (LEVEL=1 VTO=1 KP=1.0e-4 LAMBDA=0.02)

.OP
.END

