*SPICE Netlist for circuit 58
C1 0 1 1nF
M2 2 4 0 0 PMOS W=1u L=1u
M1 1 5 2 2 PMOS W=1u L=1u
U1 2 5
.MODEL PMOS PMOS (LEVEL=1 VTO=1 KP=1.0e-4 LAMBDA=0.02)

.OP
.END

