*SPICE Netlist for circuit 73
C1 1 2 1nF
I1 VDD 2 DC 1mA
M1 2 1 0 0 PMOS W=1u L=1u
U1 3 4 1
.MODEL PMOS PMOS (LEVEL=1 VTO=1 KP=1.0e-4 LAMBDA=0.02)

.OP
.END

